* extracted by klt extract --deck sg13cmos5l

* cell sg13cmos5l_bandgap_core
* pin e2,sns2
* pin e3,vref
* pin fb
* pin sns1
* pin vdd
* pin vss
.SUBCKT sg13cmos5l_bandgap_core e2|sns2 e3|vref fb sns1 vdd vss
* device instance $1 r0 *1 0,60 pfet
M$1 vdd fb sns1 \$27 pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $2 r0 *1 45,60 pfet
M$2 vdd fb e2|sns2 \$27 pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $3 r0 *1 180,60 pfet
M$3 vdd fb e3|vref \$27 pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
.ENDS sg13cmos5l_bandgap_core
