* extracted by klt extract --deck sg13cmos5l

* cell sg13cmos5l_bandgap_core
* pin e2
* pin e3
* pin fb
* pin sns1
* pin sns2
* pin vdd
* pin vref
* pin vss
* pin e2
.SUBCKT sg13cmos5l_bandgap_core e2 e3 fb sns1 sns2 vdd vref vss e2$1
* device instance $1 r0 *1 0,60 pfet
M$1 vdd fb sns1 vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $2 r0 *1 45,60 pfet
M$2 vdd fb sns2 vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $3 r0 *1 180,60 pfet
M$3 vdd fb vref vdd pfet L=1U W=10U AS=4P AD=4P PS=20.8U PD=20.8U
* device instance $4 r0 *1 52,50.925 rppd
R$4 sns2 e2 vss 11063 rppd L=85.1U W=2U
* device instance $5 r0 *1 199.06,35.027 rppd
R$5 vref e3 vss 84110 rppd L=647U W=2U
.ENDS sg13cmos5l_bandgap_core
